US09216173B2
To a solution of benzyl {2-[(tert-butoxycarbonyl)amino]-3-(dimethylamino)-3-oxopropyl}carbamate (5.5 g, 15 mmol) in methanol (100 mL) was added palladium on carbon (0.55 g, 10% w/w). The reaction mixture was stirred under a hydrogen (50 psi) atmosphere at 50° C. After 4 hours, the reaction mixture was filtered and concentrated under reduced pressure to afford 3-amino-N2-(tert-butoxycarbonyl)-N,N-dimethylalaninamide. MS ESI calc'd. for C10H22N3O3 [M+H]+ 232. found 232. 1H NMR (400 MHz, CD3OD) δ 4.59-4.46 (m, 1H), 2.91 (s, 3H), 2.86 (s, 3H), 2.75-2.72 (m, 1H), 2.71-2.69 (m, 1H) 1.43 (s, 9H).

reactant | benzyl {2-[(tert-butoxycarbonyl)amino]-3-(dimethylamino)-3-oxopropyl}carbamate | 15 mmol, 5.5 g | C(C)(C)(C)OC(=O)NC(CNC(OCC1=CC=CC=C1)=O)C(=O)N(C)C | C18H27N3O5
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 0.55 g | [Pd] | Pd
product | 3-amino-N2-(tert-butoxycarbonyl)-N,N-dimethylalaninamide | NC[C@H](NC(=O)OC(C)(C)C)C(=O)N(C)C | C10H21N3O3
